US07153848B2
13-Cyclohexyl-N-[(dimethylamino)sulfonyl]-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-Indolo[2,1-a][2]benzazepine-10-carboxamide
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (12.6 mg, 0.066 mmol) was added to a solution of 13-cyclohexyl-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (8.7 mg, 0.022 mmol) and DMAP (8.1 mg, 0.066 mmol) in DMF (0.3 mL) and CH2Cl2 (0.3 mL) at 22° C. The vial was shaken for a minute at 22° C. then N,N-dimethylsulfamide (5.5 mg, 0.044 mmol) was added. Stirring was continued for 18 hr. The solution was then filtered and purified by Prep. reverse phase chromatography. The product containing fraction was concentrated on a Speed Vac® to leave the title compound as a white film (1.2 mg, 11%). ESI-MS m/z 498 (MH+) 1H NMR (500 MHz, MeOD) δ 1.23–1.33 (m, 1 H) 1.39–1.54 (m, 2 H) 1.62 (m, 1 H) 1.77–1.87 (m, 2 H) 1.93–2.18 (m, 4 H) 2.99 (d, J=11.29 Hz, 1 H) 3.04 (s, 6 H) 3.35 (m, 1 H) 4.42 (d, J=4.58 Hz, 1 H) 4.56 (m, 1 H) 4.75 (dd, J=14.50, 7.17 Hz, 1 H) 7.47 (m, 2 H) 7.54 (m, 1 H) 7.61 (dd, J=8.55, 1.53 Hz, 1 H) 7.80 (d, J=7.63 Hz, 1 H) 7.94 (d, J=8.85 Hz, 1 H) 8.13 (s, 1 H).

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.066 mmol, 12.6 mg | Cl.CN(CCCN=C=NCC)C
reactant | 13-cyclohexyl-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.022 mmol, 8.7 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)O | C24H25NO4
reactant | N,N-dimethylsulfamide | 0.044 mmol, 5.5 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
catalyst | DMAP | 0.066 mmol, 8.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.3 mL | C(Cl)Cl | CH2Cl2
product | 13-Cyclohexyl-N-[(dimethylamino)sulfonyl]-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-Indolo[2,1-a][2]benzazepine-10-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)NS(=O)(=O)N(C)C | C26H31N3O5S
